US04261982
In a similar procedure, zinc 2-ethyl hexanoate (slight excess) is combined with erythromycin base, at room temperature in diisopropyl sebacate, to provide a zinc erythromycin compound, presumably as the complex zinc di-erythromycin di-2-ethylhexanoate.

reactant | zinc 2-ethyl hexanoate | C(CCCCC)(=O)OCC.[Zn]
reactant | erythromycin base | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
solvent | diisopropyl sebacate | C(CCCCCCCCC(=O)OC(C)C)(=O)OC(C)C | C16H30O4
product | zinc erythromycin | [Zn].CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | InChI=1S/C37H67NO13.Zn/c1-14-25-37(10,45)30(41)20(4)27(39)18(2)16-35(8,44)32(51-34-28(40)24(38(11)12)15-19(3)47-34)21(5)29(22(6)33(43)49-25)50-26-17-36(9,46-13)31(42)23(7)48-26;/h18-26,28-32,34,40-42,44-45H,14-17H2,1-13H3;/t18-,19-,20+,21+,22-,23+,24+,25-,26+,28-,29+,30-,31+,32-,34+,35-,36-,37-;/m1./s1
